US08242125B2
1-Methyl-5-(1-Methyl-cyclopropyl)-1H-pyrazol-3-ylamine
To a solution of 3-(1-methyl-cyclopropyl)-3-oxo-propionitrile (1.0 g, 8.1 mmol) in EtOH (10 mL) is added 4N HCl in Dioxane (10 mL). The mixture is stirred at room temperature for 16 hour. Concentrated under reduced pressure, the residue is dissolved in MeOH (40 mL) and treated with methylhydrazine (0.56 g, 12.2 mmol). The mixture is heated at 80° C. for 16 h. The solution is then concentrated in vacuo and the residue is purified by HPLC give product. MS (ESI) m/z 152.3 (M+1).

reactant | 3-(1-methyl-cyclopropyl)-3-oxo-propionitrile | 8.1 mmol, 1.0 g | CC1(CC1)C(CC#N)=O | C7H9NO
reactant | HCl | 4N | Cl | ClH
reactant | methylhydrazine | 12.2 mmol, 0.56 g | CNN | CH6N2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | Dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-Methyl-5-(1-Methyl-cyclopropyl)-1H-pyrazol-3-ylamine | CN1N=C(C=C1C1(CC1)C)N | C8H13N3
